US07655666B2
2-Amino-4-difluoromethyl-5-(2-isopropyl-2H-pyrazol-3-yl)-benzoic acid methyl ester
To a solution of 2-amino-4-difluoromethyl-5-iodo-benzoic acid methyl ester (750 mg, 2.29 mmol) in dioxane (30 mL) were added 1-isopropyl-5-tributylstannanyl-1H-pyrazole (1.1 g, 1.2 equiv) and Pd(dppf)2Cl2 (187 mg, 0.1 equiv) and the resulting mixture was stirred at 90° C. for 18 h. Another portion of catalyst (0.1 equiv) was added and the mixture was stirred at 90° C. for an additional 6 h. The solvent was removed in vacuo to afford a dark oil. The crude product was purified by flash chromatography (silica gel, EtOAc/hexanes (0:100 to 30:70)) to provide the title compound as an off-white solid (380 mg, 54%). ES-MS: m/z 310.3 [M+H]+, rt 5.54 min.

reactant | 2-amino-4-difluoromethyl-5-iodo-benzoic acid methyl ester | 2.29 mmol, 750 mg | COC(C1=C(C=C(C(=C1)I)C(F)F)N)=O | C9H8F2INO2
reactant | 1-isopropyl-5-tributylstannanyl-1H-pyrazole | 1.1 g, 1.2 equiv | C(C)(C)N1N=CC=C1[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)2Cl2 | 187 mg, 0.1 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-Amino-4-difluoromethyl-5-(2-isopropyl-2H-pyrazol-3-yl)-benzoic acid methyl ester | 380 mg, 54% | COC(C1=C(C=C(C(=C1)C=1N(N=CC1)C(C)C)C(F)F)N)=O | C15H17F2N3O2
